US04610991
5-Chloro-2-(4-pyridinylamino)benzoic acid was prepared from 25 g of 5-chloroanthranilic acid and 21 g of 4-chloropyridine hydrochloride according to the procedure of Example 1, part (a). There was obtained 14.2 g of 5-chloro-2-(4-pyridinylamino)benzoic acid, m.p. 306°-308° C. (decompn.).

reactant | 5-chloroanthranilic acid | 25 g | ClC1=CC=C(C(C(=O)O)=C1)N | C7H6ClNO2
reactant | 4-chloropyridine hydrochloride | 21 g | Cl.ClC1=CC=NC=C1
product | 5-chloro-2-(4-pyridinylamino)benzoic acid | 14.2 g | ClC=1C=CC(=C(C(=O)O)C1)NC1=CC=NC=C1 | C12H9ClN2O2
